### PR TITLE
[Merged by Bors] - feat(Topology/EMetricSpace): instances of weak extended metric spaces

### PR DESCRIPTION
**Pull request by felixpernegger**
Continuation of #38105.
In particular, this makes `ENNReal` and `EReal` weak extended metric spaces. After this PR one can probably generalise various results/definition which use `(Pseudo)EMetricSpace` to use `Weak(Pseudo)EMetricSpace` (so that they in particular also hold for `ENNReal` and `EReal`)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 1]
```diff
@@ -0,0 +1,246 @@
...
+  ⟨WithTop.coe_strictMono.isEmbedding_of_ordConnected (range_coe (α := α) ▸ ordConnected_Iio),
+   range_coe (α := α) ▸ isOpen_Iio' ⊤⟩
+
+/-- If `α` has a topology induced by a linear order in is a weak pseudo extended metric space,
+so if `WithTop α` -/
+@[to_dual]
+instance instWeakPseudoEMetricSpaceWithTop [m : WeakPseudoEMetricSpace α] :
+    WeakPseudoEMetricSpace (WithTop α) :=
+  let : TopologicalSpace (Option α) := instTopologicalSpaceWithTopOfPreorder
+  Option.weakPseudoEMetricSpace_of_isOpenEmbedding WithTop.isOpenEmbedding_some
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]: I'd like to argue that all these instances are bad because their `EDist` fields are specified in terms of `Option.some` and are therefore abusing defeq. To fix this, you should make `Option.weakPseudoEMetricSpace_of_isOpenEmbedding` take two additional arguments: `[inst : EDist (Option α)]` and `(h_edist : inst = Option.toEDist)`. Then, each type should be equipped with it's own `EDist`, written in terms of its own constructors, and then you can apply your modified lemma using `(h_edist := rfl)` as an argument. This shifts the defeq abuse into the proof term instead of the data of the `EDist` field, making it mostly harmless.

**Review by j-loreaux — COMMENTED** [review]
Another idea, but I'm not quite sure how to make it work: define a `Prop`-valued type class which says that `α` is equivalent to `Option β` for a certain `β` (maybe `Option {x : α // x ≠ a}`, which is always true?) and that the `EDist` instance on `α` is equivalent to `Option.toEDist (α := β)`.

The purpose of this is not to fix the instance data, but rather to get a unified collection of lemmas that works simultaneously for `Option`, `OnePoint`, `WithTop`, `WithBot`, `ENNReal`, and `ENat` without duplicating everything.

**Comment by felixpernegger** [comment]
> Another idea, but I'm not quite sure how to make it work: define a `Prop`-valued type class which says that `α` is equivalent to `Option β` for a certain `β` (maybe `Option {x : α // x ≠ a}`, which is always true?) and that the `EDist` instance on `α` is equivalent to `Option.toEDist (α := β)`.
> 
> The purpose of this is not to fix the instance data, but rather to get a unified collection of lemmas that works simultaneously for `Option`, `OnePoint`, `WithTop`, `WithBot`, `ENNReal`, and `ENat` without duplicating everything.

Every nontrivial type is bijective to some `Option ...`. And if the type is infinite, we can't say anything at all (I think?).

So the only way I can think of is having a class:

`class IsOption (α β : Type u) : Prop where
   eq_option : β = Option α`
   
 Then this might deduplicate theorems abut `WithTop, ENNReal, Option, OnePoint`, ...
 
 Is this what you have in mind?
 
 If yes, I can make a Zulip post about this

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 2]
```diff
@@ -0,0 +1,246 @@
...
+
+open scoped Uniformity Topology NNReal ENNReal Pointwise
+
+universe u
+
+variable {α : Type u} [t : TopologicalSpace α]
+
+@[to_dual]
+instance instTopologicalSpaceWithTopOfPreorder [Preorder α] : TopologicalSpace (WithTop α) :=
+  Preorder.topology (WithTop α)
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Weak.lean]: This is [`TopologicalSpace.instWithTopOfOrderTopology`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/WithTop.html#TopologicalSpace.instWithTopOfOrderTopology) but without requiring `OrderTopology`, can you delete this and import `Mathlib.Topology.Order.WithTop` instead?
(and perhaps tag the existing instance with `to_dual`)

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 3]
```diff
@@ -0,0 +1,246 @@
...
+
+@[to_dual]
+instance instOrderTopologyWithTop [Preorder α] [OrderTopology α] : OrderTopology (WithTop α) where
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Weak.lean]: This is [`TopologicalSpace.instOrderTopologyWithTop`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/WithTop.html#TopologicalSpace.instOrderTopologyWithTop)

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Topology/Order/WithTop.lean [hunk 4]
```diff
@@ -23,10 +23,13 @@ namespace TopologicalSpace
 
 variable {ι : Type*} [Preorder ι]
 
-@[nolint unusedArguments]
+@[nolint unusedArguments, to_dual]
 instance [TopologicalSpace ι] [OrderTopology ι] : TopologicalSpace (WithTop ι) :=
   Preorder.topology _
 
+attribute [nolint unusedArguments] instWithBotOfOrderTopology
```
Comment (felixpernegger) [inline Mathlib/Topology/Order/WithTop.lean:30]: Is it a bug that the nolint attribute isnt passed down to the dual theorem automatically?

**Comment by j-loreaux** [comment]
> Is this what you have in mind?

No, we definitely don't want a class talking about equality of types. I think the way to make it work, although I'm not necessarily advocating for it, would be to have a class:

(you'll have to ignore the fact that we don't have `Equiv.edist` to transfer an `EDist` across an `Equiv` at the moment.
```lean
class IsOptionEDist (α β : Type*) (a : α) [inst₁ : EDist α] [EDist β] : Prop where
  exists_equiv : ∃ e : α ≃ Option β, e a = none ∧ e.edist = Option.toEDist
```
After thinking about it, this is probably not worth the effort.

File: Mathlib/Topology/Order/WithTop.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Topology/Order/WithTop.lean:30]: meh, I think it's rare enough that I wouldn't worry about it.

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 5]
```diff
@@ -0,0 +1,269 @@
...
+  | none, (x : α) => ∞
+  | none, none => 0
+  | (x : α), none => ∞
+  | (x : α), (y : α) => edist x y
+
+variable [m : WeakPseudoEMetricSpace α]
+
+@[simp]
+theorem edist_none_none : edist (self := Option.toEDist (α := α))
+  none none = 0 := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
    none none = 0 := rfl
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 6]
```diff
@@ -0,0 +1,269 @@
...
+@[simp]
+theorem edist_none_left {a : α} :
+    edist (self := Option.toEDist (α := α)) none a = ⊤ := rfl
+
+@[simp]
+theorem edist_none_right {a : α} :
+    edist (self := Option.toEDist (α := α)) a none = ⊤ := rfl
+
+@[simp]
+theorem edist_cast_cast {a b : α} :
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
theorem edist_some_some {a b : α} :
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 7]
```diff
@@ -0,0 +1,269 @@
...
+  | (x : α), (y : α) => edist x y
+
+variable [m : WeakPseudoEMetricSpace α]
+
+@[simp]
+theorem edist_none_none : edist (self := Option.toEDist (α := α))
+  none none = 0 := rfl
+
+@[simp]
+theorem edist_none_left {a : α} :
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
theorem edist_none_some {a : α} :
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 8]
```diff
@@ -0,0 +1,269 @@
...
+    edist (self := Option.toEDist (α := α)) none a = ⊤ := rfl
+
+@[simp]
+theorem edist_none_right {a : α} :
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
theorem edist_some_none {a : α} :
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 9]
```diff
@@ -0,0 +1,269 @@
...
+  edist_self := h_edist ▸ edist_self' m
+  edist_comm := h_edist ▸ edist_comm' m
+  edist_triangle := h_edist ▸ edist_triangle' m
+  topology_le s so := by
+    apply (@EMetric.isOpen_iff (Option α) (PseudoEMetricSpace.ofEDist edist
+      (h_edist ▸ edist_self' m) (h_edist ▸ edist_comm' m) (h_edist ▸ edist_triangle' m))).mpr
+    intro x xs
+    have : @Metric.eball _ {edist := edist} = @Metric.eball (Option α) Option.toEDist := by
+      congr
+    rw [this]
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
    suffices ∃ ε > 0, @Metric.eball (Option α) Option.toEDist x ε ⊆ s by rwa [← h_edist] at this
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 10]
```diff
@@ -0,0 +1,269 @@
...
+    | (x : α) =>
+      obtain ⟨ε, εp, εt⟩ := (@EMetric.isOpen_iff α (PseudoEMetricSpace.ofEDist edist
+        m.edist_self m.edist_comm m.edist_triangle)).mp
+          (m.topology_le _ <| h.continuous.isOpen_preimage s so) x (mem_preimage.mpr xs)
+      exact ⟨ε, εp, some_eball x ε ▸ image_subset_iff.mpr εt⟩
+  topology_eq_on_restrict := by
+    intro x r
+    have : @Metric.eball _ {edist := edist} = @Metric.eball (Option α) Option.toEDist := by
+      congr
+    rw [this]
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
    rw [h_edist]
```

File: Mathlib/Topology/EMetricSpace/Weak.lean [hunk 11]
```diff
@@ -0,0 +1,269 @@
...
+structure, the structure extends naturally to `Option α`. -/
+abbrev weakEMetricSpace_of_isOpenEmbedding {α : Type u} [t : TopologicalSpace α]
+    [TopologicalSpace (Option α)] [m : WeakEMetricSpace α] [inst : EDist (Option α)]
+    (h_edist : inst = Option.toEDist) (h : IsOpenEmbedding (some (α := α))) :
+    WeakEMetricSpace (Option α) :=
+  { toWeakPseudoEMetricSpace := weakPseudoEMetricSpace_of_isOpenEmbedding h_edist h,
+    eq_of_edist_eq_zero {x y} xy := by
+      have : edist (α := Option α) = Option.toEDist.edist := by
+        rw [h_edist]
+      rw [this] at xy
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Weak.lean]:
```suggestion
      rw [congr(@edist _ $h_edist x y)] at xy
```

**Review by j-loreaux — COMMENTED** [review]
This is fine now, modulo these last comments. However, I will point out that the defeq questions would be entirely avoided if we simply made `WeakPseudoEMetricSpace` a `Prop`-valued mixin by taking `EDist` as an argument to that class instead of extending it. It would make writing the generic theorems slightly messier (because you have to carry around an `EDist` assumption), but in applications it shouldn't make any difference.

bors d+
